US06720452B2
a) 2-Chloro-5-[2-chloroethoxy]-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a solution of 2-chloro-5-hydroxy-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (WO 99/29661) (0.30 g), triphenylphosphine (0.25 g) and 2-chloroethanol (0.07 ml) in tetrahydrofuran (4 ml) was added diethyl azodicarboxylate (0.15 ml) and the reaction mixture stirred at room temperature for 18 h. Further triphenylphosphine (0.12 g) and diethyl azodicarboxylate (0.08 ml) were added and the reaction stirred for an additional 4 h. Silica was added and the reaction mixture concentrated under reduced pressure. The residue was purified by silica gel chromatography (eluting with 20% ethyl acetate in isohexanes) to deliver the sub-title compound as a lightly coloured oil (0.31 g).

reactant | 2-chloro-5-hydroxy-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.30 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)O | C18H22ClNO2
reactant | triphenylphosphine | 0.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chloroethanol | 0.07 ml | ClCCO | C2H5ClO
reactant | diethyl azodicarboxylate | 0.15 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.08 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-Chloro-5-[2-chloroethoxy]-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)OCCCl | C20H25Cl2NO2
